2177-04-04 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Weaned off levophed
   - Stress dose steroids continued
   - Received total of 7 liters NS
   - Incontinent of multiple small volume loose stools, causing her to cry
   out
   - CT abdomen revealed rectal impaction
   - Spontaneously passed large volume, hard BM
   Allergies:
   Prochlorperazine
   dystonia;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-4-3**] 08:25 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea, Constipation
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2177-4-4**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36
C (96.8
   HR: 64 (64 - 86) bpm
   BP: 84/51(58) {81/23(44) - 110/69(77)} mmHg
   RR: 13 (5 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 11,024 mL
                                                                  2,230 mL
   PO:
                                                                    350 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  5,674 mL
                                                                  1,630 mL
   Blood products:
   Total out:
                                                                  3,525 mL
                                                                  2,270 mL
   Urine:
                                                                  2,200 mL
                                                                  2,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,499 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Normal
   Labs / Radiology
   210 K/uL
   11.3 g/dL
   107 mg/dL
   0.7 mg/dL
   24 mEq/L
   2.9 mEq/L
   10 mg/dL
   116 mEq/L
   148 mEq/L
   32.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2177-4-4**]  03:49 AM
                             [**2177-4-4**]  06:30 AM
   WBC
   6.9
   Hct
   32.1
   Plt
   210
   Cr
   0.7
   0.7
   Glucose
   116
   107
   Other labs: PT / PTT / INR:16.5/32.1/1.5, ALT / AST:92/115, Alk Phos /
   T Bili:87/0.2, Differential-Neuts:90.0 %, Lymph:7.8 %, Mono:1.7 %,
   Eos:0.3 %, Lactic Acid:1.2 mmol/L, Ca++:6.2 mg/dL, Mg++:1.5 mg/dL,
   PO4:1.8 mg/dL
   Microbiology: [**2177-4-4**] 12:49 am STOOL
      FECAL CULTURE (Pending):
      CAMPYLOBACTER CULTURE (Pending):
      OVA + PARASITES (Pending):
      Cryptosporidium/Giardia (DFA) (Pending):
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Pending):
   3/5 blood cx: NGTD
   [**4-3**] urine cx: NGTD
   Assessment and Plan
   1) SIRS:  Suspect sepsis, but no source identified via history.  She
   currently meets 3 of 4 SIRS criteria with leukocytosis, fever, and
   hypotension.  Consider intrabdominal process give abdominal tenderness
   on exam vs. aspiration pneumonia given that she was found in bed with
   emesis vs. meningitis given altered mental status.
   - Empiric antibiotic coverage with Vanc/Levo/Flagyl
   - Fluid resuscitation to goal MAP > 65
   - Wean Levophed as able
   - CT abdomen
   - f/u blood and urine cultures
   - stress dose steroids with Hydrocort 100 q8 hoursi n the setting of
   acute illness and chronic steroid dependence
   2) Altered mental status:  Consider primary intracranial process vs.
   meningitis/encephalatis vs. post-ictal state given known seizure
   disorder vs. excerbation of old left MCA infarct in the setting of
   acute illness.  CT head performed in ED revealed only presence of old
   infarct.  Patient received 1 gram Ceftriaxone as empiric coverage for
   bacterial meningitis in ED.
   - Dose 1 gram Ceftriaxone x 1 now as correct dosing for meningitis
   - Consider LP if CT abdomen is unrevealing
   - avoid sedating medications
   3) ARF:  Baseline creatinine per [**Hospital1 12**] records = 0.88, now elevated to
   1.2 at time of presentation.  Suspected prerenal etiology vs. ATN in
   the setting of hypotension.
   - check urine lytes if not resolved in AM following fluid resuscitaiton
   - renally dose medications
   - follow urine output
   4) Hypopituairism, s/p resection of pituitary adenoma:
   - Stress dose steroids as above, with plan to taper back to home dose
   - Continue Levoxyl for thyroid replacement
   - Continue [**Hospital1 **] injection w/ Nutropin
   - Continue estradiol replacement w/ Divigel
   5) Seizure disorder:  secondary to prior left MCA stroke.
   - Continue Lamotrigine
   6) FEN:
   - Clear liquid diet
   7) PPx:
   - SC heparin as DVT prophylaxis
   - SSI while on stress-dose steroids
   8) Code status:  Full code, confirmed with brother Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **].
   9) Communication:  Brother Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] ([**Telephone/Fax (1) 5045**] (office),
   ([**Telephone/Fax (1) 5046**] (home).  Daughter-in-law [**First Name8 (NamePattern2) 5047**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 5048**] (cell).
   Home health aide [**Doctor First Name 5049**] ([**Telephone/Fax (1) 5050**].
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2177-4-3**] 04:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2177-04-04 10:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Levophed weaned off, given 7L overnight IVF. Started on hydrocort 100
   mcg q8h. CTabd revealed large amount of stool otherwise unremarkable.
   Passing small amount of liquid stool, passed large volume hard stool
   after this. Mental status improved overnight.
 MULTI LUMEN - START [**2177-4-3**] 04:26 PM
   Allergies:
   Prochlorperazine
   dystonia;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-4-3**] 08:25 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-4-4**] 09:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-4-4**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 82 (64 - 86) bpm
   BP: 88/56(64) {81/23(44) - 110/69(83)} mmHg
   RR: 14 (5 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 11,024 mL
                                                                  2,406 mL
   PO:
                                                                    350 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  5,674 mL
                                                                  1,806 mL
   Blood products:
   Total out:
                                                                  3,525 mL
                                                                  2,670 mL
   Urine:
                                                                  2,200 mL
                                                                  2,670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,499 mL
                                                                   -264 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   210 K/uL
   107 mg/dL
   0.7 mg/dL
   24 mEq/L
   2.9 mEq/L
   10 mg/dL
   116 mEq/L
   148 mEq/L
   32.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2177-4-4**]  03:49 AM
                             [**2177-4-4**]  06:30 AM
   WBC
   6.9
   Hct
   32.1
   Plt
   210
   Cr
   0.7
   0.7
   Glucose
   116
   107
   Other labs: PT / PTT / INR:16.5/32.1/1.5, ALT / AST:92/115, Alk Phos /
   T Bili:87/0.2, Differential-Neuts:90.0 %, Lymph:7.8 %, Mono:1.7 %,
   Eos:0.3 %, Lactic Acid:1.2 mmol/L, Ca++:6.2 mg/dL, Mg++:1.5 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
 ANXIETY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Plan:
   1. Septic [**Year (4 digits) 1531**]: Possible abd source given n/v/diarrhea
   -possible stercoral ulcer from fecal impaction
   -f/u cx
   -LP to r/o meningitis
   -d/c vanco, cont. levo/flagyl
   2. AMS: Recrudescence of CVA vs delirium
   -holding home percocet and valium
   3. ARF: Likely prerenal vs. ATN, now improved
   -redose meds as renal function improved
   4. Panhypopit:
   -100 mcg [**Hospital1 **] taper today
   -cont. synthroid
   5. Seizure d/o: Cont, Lamotrigine
   6. FEN: 1L D5, follow uop closely for evidence of DI, lytes repleted
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2177-4-3**] 04:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   Physical Exam:
   Gen: Alert, follows complex commands, expressive aphasia and R
   hemiparesis
   HEENT: mmm no OP lesions
   CV: RRR no m/r/g
   Pulm: CTAb
   Abd: Slight LLQ TTP with guarding, no rebound +BS
   Ext: No edema, warm
   Skin: No rashes
   Neuro: Expressive aphasia, comprehension intact, R hemiparesis, no
   nuchal rigidity
   ------ Protected Section Addendum Entered By:[**Name (NI) 5058**] [**Last Name (NamePattern1) 1516**], MD
   on:[**2177-4-4**] 01:42 PM ------
   I have seen and examined the patient with the fellow, reviewed and
   agree with the assessment and plan as above with the following
   modifications:
   59 year old female history of pit tumor and CVA who presented with
   fever 104.  In ED, had CXR, U/A which were normal and attempted but
   could not obtain an LP.  She received broad-spectrum antibiotics and
   hydrocortisone.  Also hypotensive requiring fluids and ultimately
   central line and levophed. On arrival to the ICU, she also had
   abdominal pain and tenderness.
   Pt. unable to provide much history as baseline expressive aphasia/word
   finding difficulty and now with some mental status change.
   T 37.6   P 82    BP  90/60
 off levophed    RR 22  SaO2: 100%
   Gen: appears slightly confused but in no acute distress
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft, diffuse tenderness
   Ext: cool
   CXR: no definitive infiltrate
   U/A negative
   BC: pending
   Good urine output, lactate improved
   A:
   1)       Septic [**Name (NI) 1531**]
 unclear source as CXR negative and U/A negative
   and CT of the abdomen (prelim) is negative.  Meningitis unlikely but on
   differential.  Also, C. diff
   2)       Hypopituitarism
   3)       History of CVA with baseline expressive aphasia
   Plan:
   1)       Check final read on abdominal CT scan
   2)       Check LP
   3)       Continue volume resuscitation dictated by perfusion endpoints
   of resuscitation
 currently urine OP improved as is lactate though BP
   remains borderline
   4)       When SBP consistently above 100, then will D/C femoral central
   line
   5)       Continue hydrocortisone for adrenal insufficiency component
   Time Spent: 35 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2177-4-4**] 11:04 PM ------

2177-04-05 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - SBP as low as 70s but continues to have increased urine out put
   - LP is normal, culture is pending
   - stool studies sent, prelim negative
   - continue to wean steroids to home dose
   - Vancomycin was discontinued
   Allergies:
   Prochlorperazine
   dystonia;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-4-3**] 08:25 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-4-4**] 09:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-4-5**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 74 (65 - 83) bpm
   BP: 93/52(61) {78/41(51) - 100/67(83)} mmHg
   RR: 16 (0 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,267 mL
                                                                    577 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                  3,067 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                  4,295 mL
                                                                    800 mL
   Urine:
                                                                  4,295 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -28 mL
                                                                   -224 mL
   Respiratory support
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   198 K/uL
   10.4 g/dL
   139 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.3 mEq/L
   7 mg/dL
   110 mEq/L
   142 mEq/L
   28.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2177-4-4**]  03:49 AM
                             [**2177-4-4**]  06:30 AM
                             [**2177-4-4**]  05:02 PM
   WBC
   6.9
   9.6
   Hct
   32.1
   28.8
   Plt
   210
   198
   Cr
   0.7
   0.7
   0.6
   Glucose
   116
   107
   139
   Other labs: PT / PTT / INR:16.5/32.1/1.5, ALT / AST:92/115, Alk Phos /
   T Bili:87/0.2, Differential-Neuts:90.0 %, Lymph:7.8 %, Mono:1.7 %,
   Eos:0.3 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:6.7 mg/dL,
   Mg++:2.7 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   1) SIRS:  Suspect sepsis, but no source identified via history.  She
   met 3 of 4 SIRS criteria with leukocytosis, fever, and hypotension.
   Consider intraabdominal process given frequent diarrhea overnight vs.
   aspiration pneumonia given that she was found in bed with emesis vs.
   meningitis given altered mental status.
   - Empiric antibiotic coverage for GI vs. aspiration process with
   levo/flagyl
   - Discontinue Vancomycin
   - Fluid resuscitation to goal MAP > 65
   - f/u CT abdomen final report
   - f/u blood and urine cultures
   - taper stress dose steroids to  Hydrocort 100 q12 hours in the setting
   of acute illness and chronic steroid dependence
   2) Altered mental status:  Consider primary intracranial process vs.
   meningitis/encephalatis vs. post-ictal state given known seizure
   disorder vs. excerbation of old left MCA infarct in the setting of
   acute infection.  CT head performed in ED revealed only presence of old
   infarct.  Mental status now improved and patient appears at baseline
   with chronic word-finding aphasia.
   - LP today to r/o meningitis
   3) ARF:  Baseline creatinine per [**Hospital1 12**] records = 0.88.  Estimated GFR 43
   at presentation with Cr 1.2. Creatinine now back to baseline following
   fluid resuscitation.
   - redoes meds
   - Continue Mucomyst as renal protection in the setting of contrast
   administration
   - follow urine output
   4) Hypopituairism, s/p resection of pituitary adenoma:
   - Stress dose steroids as above, with plan to taper back to home dose
   - Continue Levoxyl for thyroid replacement
   - Continue estradiol replacement w/ Divigel
   5) Seizure disorder:  secondary to prior left MCA stroke.
   - Continue Lamotrigine
   6) FEN:
   - Clear liquid diet; will advance as tolerated.
   - Replete K, Mg, Phos and recheck chem-10 in PM.
   7) PPx:
   - SC heparin as DVT prophylaxis
   - SSI while on stress-dose steroids
   8) Code status:  Full code, confirmed with brother Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **].
   9) Communication:  Brother Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] ([**Telephone/Fax (1) 5045**] (office),
   ([**Telephone/Fax (1) 5046**] (home).  Daughter-in-law [**First Name8 (NamePattern2) 5047**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 5048**] (cell).
   Home health aide [**Doctor First Name 5049**] ([**Telephone/Fax (1) 5050**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2177-4-3**] 04:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: